US05624943
A solution of 15 g of 3-(3-hydroxy-2-pyridyl)-propionic acid methyl ester in 250 ml of methanol is mixed with 12.4 g of sodium iodide, cooled to 15° C., and 74 ml of aqueous sodium hypochlorite solution (6.5% active chlorine) is instilled. The yellow suspension is concentrated by evaporation, the residue is taken up in water, acidified to pH 4 with 2n sulfuric acid and shaken out with ethyl acetate. The organic phase is washed with 10% sodium thiosulfate solution, dried with sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/0-50% ethyl acetate. 8.3 g of 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester of melting point 145°-148° C. is obtained.

reactant | 3-(3-hydroxy-2-pyridyl)-propionic acid methyl ester | 15 g | COC(CCC1=NC=CC=C1O)=O | C9H11NO3
reactant | sodium iodide | 12.4 g | [I-].[Na+]
reactant | sodium hypochlorite | 74 ml | Cl[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester | 8.3 g | COC(CCC1=NC(=CC=C1O)I)=O | C9H10INO3
